US05591762
b) 4'-[[2-n-Propyl-4-methyl-6-(1-methyl-4,5-diphenyl-imidazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid-sesquihydrate
Prepared analogously to Example 151 from tert.butyl 4'-[[2-n-propyl-4-methyl-6-(1-methyl-4,5-diphenyl-imidazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate and trifluoroacetic acid.

reactant | tert.butyl 4'-[[2-n-propyl-4-methyl-6-(1-methyl-4,5-diphenyl-imidazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)C=2N(C(=C(N2)C2=CC=CC=C2)C2=CC=CC=C2)C | C45H44N4O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4'-[[2-n-Propyl-4-methyl-6-(1-methyl-4,5-diphenyl-imidazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid-sesquihydrate | O.C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2N(C(=C(N2)C2=CC=CC=C2)C2=CC=CC=C2)C.O.O.C(CC)C2=NC1=C(N2CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O)C=C(C=C1C)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/2C41H36N4O2.3H2O/c2*1-4-13-36-42-37-27(2)24-32(40-43-38(30-14-7-5-8-15-30)39(44(40)3)31-16-9-6-10-17-31)25-35(37)45(36)26-28-20-22-29(23-21-28)33-18-11-12-19-34(33)41(46)47;;;/h2*5-12,14-25H,4,13,26H2,1-3H3,(H,46,47);3*1H2
